US08114881B2
6-[2-(4-Cyano-phenyl)-2H-pyrazol-3-yl]-5-methyl-3-oxo-4-(3-trifluoromethyl-phenyl)-3,4-dihydro-pyrazine-2-carboxylic acid methylamide
6-Bromo-N,5-dimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide (SM2, 0.05 g, 0.128 mmol), 1-(4-cyanophenyl)-1H-pyrazol-5-boronic acid (SM4, 0.062 g, 0.256 mmol), Cs2CO3 (0.125 g, 0.384 mmol) and DME (3 ml) were added to a glass tube for microwave synthesis. The mixture was degassed with nitrogen and Pd(PBut3)2 (0.010 g) was added. The tube was sealed and heated with stirring at 110° C. (150 W) in a microwave heater for 10 minutes. The mixture was diluted with EtOAc (5 ml), and filtered. The solution was concentrated in vacuo and was purified by chromatography on silica to give a reasonably pure material that was further purified by preparative HPLC to give 0.012 g (20%) of the title compound as a white solid.

reactant | 6-Bromo-N,5-dimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.128 mmol, 0.05 g | BrC1=C(N(C(C(=N1)C(=O)NC)=O)C1=CC(=CC=C1)C(F)(F)F)C | C14H11BrF3N3O2
reactant | 1-(4-cyanophenyl)-1H-pyrazol-5-boronic acid | 0.256 mmol, 0.062 g | C(#N)C1=CC=C(C=C1)N1N=CC=C1B(O)O | C10H8BN3O2
reactant | Cs2CO3 | 0.384 mmol, 0.125 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DME | 3 ml | COCCOC | C4H10O2
product | 6-[2-(4-Cyano-phenyl)-2H-pyrazol-3-yl]-5-methyl-3-oxo-4-(3-trifluoromethyl-phenyl)-3,4-dihydro-pyrazine-2-carboxylic acid methylamide | 0.012 g, 20% | CNC(=O)C1=NC(=C(N(C1=O)C1=CC(=CC=C1)C(F)(F)F)C)C=1N(N=CC1)C1=CC=C(C=C1)C#N | C24H17F3N6O2
